US08404672B2
A 20 mL BIOTAGE® microwave vial and stir bar were oven dried and cooled under a stream of dry nitrogen. The vial was flushed with argon and charged with dichlorobis(triphenylphosphine)-palladium(II) (96 mg, 0.137 mmol) and dioxane (12 mL) followed by sparging with argon for several minutes. 2-Bromopyridine (0.217 mL, 2.28 mmol), ethyl 5-(tributylstannyl)isoxazole-3-carboxylate (980 mg, 2.28 mmol), and 1-butyl-3-methylimidazolium hexafluorophosphate (0.047 mL, 0.228 mmol) were added and sparging was continued for several minutes. The vial was sealed and processed in a BIOTAGE® microwave at 150° C. for 60 minutes. The solution was cooled, evaporated, and the residue was loaded onto a 120 g Isco silica gel cartridge, which was pre-equilibrated with hexanes, and then eluted with 0-50% EtOAc/Hexanes. The product fractions were evaporated to give a pale yellow oil, which solidified after being placed under high vacuum to afford ethyl 5-(pyridin-2-yl)isoxazole-3-carboxylate (212 mg, 0.972 mmol, 43% yield). The product had an HPLC retention. time=2.48 min.—Column: YMC S5 COMBISCREEN® 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=219.1. 1H NMR (400 MHz, chloroform-d) δ ppm 1.42-1.48 (m, 3H), 4.49 (q, J=7.28 Hz, 2H), 7.31 (s, 1H), 7.39 (ddd, J=7.53, 4.89, 1.13 Hz, 1H), 7.87 (td, J=7.78, 1.76 Hz, 1H), 7.96 (d, J=7.78 Hz, 1H), and 8.73 (d, 1H).

reactant | 2-Bromopyridine | 2.28 mmol, 0.217 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | ethyl 5-(tributylstannyl)isoxazole-3-carboxylate | 2.28 mmol, 980 mg | C(CCC)[Sn](C1=CC(=NO1)C(=O)OCC)(CCCC)CCCC
reactant | 1-butyl-3-methylimidazolium hexafluorophosphate | 0.228 mmol, 0.047 mL | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.137 mmol, 96 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | ethyl 5-(pyridin-2-yl)isoxazole-3-carboxylate | 0.972 mmol, 212 mg, 43% yield | N1=C(C=CC=C1)C1=CC(=NO1)C(=O)OCC | C11H10N2O3
